US04319914
5,5,7-Trimethyl-4,5,6,7-tetrahydrobenzothiazol-2-yl isocyanate dimer (7.5 grams), the dimethyl acetal of 2-methyl-aminoacetaldehyde (5 grams) and toluene (15 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer and reflux condenser. The reaction mixture was then heated, with stirring for a period of about 1 hour. After this time the mixture was cooled and filtered. The filtrate was washed with water, dried and evaporated, leaving the desired product dimethyl acetal of 2-[1-methyl-3-(5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothiazol-2-yl)ureido]acetaldehyde as a brown oil.

reactant | 5,5,7-Trimethyl-4,5,6,7-tetrahydrobenzothiazol-2-yl isocyanate | CC1(CC(C2=C(N=C(S2)N=C=O)C1)C)C | C11H14N2OS
reactant | 2-methyl-aminoacetaldehyde | 5 grams | CC(C=O)N | C3H7NO
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[1-methyl-3-(5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothiazol-2-yl)ureido]acetaldehyde | CN(C(=O)NC=1SC2=C(N1)CC(CC2C)(C)C)CC=O | C14H21N3O2S
